US04978761
To a methylene chloride solution (50 ml) of oxalyl chloride (2 ml) was added dropwise at -60° C. dimethylsulfoxide (4 ml). The mixture was stirred for 10 minutes, and there was then added dropwise a methylene chloride solution (10 ml) of 5-acetoxy-2-hydroxymethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran [5.0 g (19 mmol)]. The reaction mixture was stirred for 15 minutes, and there was added triethylamine (15 ml), and the mixture was stirred for further 10 minutes. The reaction mixture was washed with water and dried, followed by distilling off the solvent. The residue was crystallized from isopropylether-hexane to obtain 5-acetoxy-2-formyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran (yield 96.7%), m.p. 78°-79° C.

reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 5-acetoxy-2-hydroxymethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 19 mmol, 5.0 g | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CO)C1C)C)C | C15H20O4
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 5-acetoxy-2-formyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | yield 96.7% | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)C=O)C1C)C)C | C15H18O4
